US05589489
3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylsulfinyl-3-pyridyl)piperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride
3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde (0.33 g) was coupled to 4-(2-methylsulfinyl-3-pyridyl)piperidine(0.423 g) by a method similar to that described in Example 8. The reaction product was purified by chromatography and converted to the corresponding hydrochloride salt as described in the Example 8 to afford the title compound (0.26 g); mp 120°-182° C. (d); MS: m/z=586(M+1); NMR(CD3OD): 2.0-2.3 (m,4), 2.6 (m,2), 2.9 (m,5), 3.2-3.3 (m,4), 3.6-3.9 (m,8), 4.8 (m,1), 6.7-7.3 (m,5), 7.5-8.1 (m,3), 8.7 (broad,1). Analysis for C30H33Cl2N3O3S.2.0 HCl.1.0 H2O: Calculated: C, 53.18; H, 5.50, N, 6.20; Found: C, 53.39; H, 4.49; N, 6.53.

reactant | 3-(3,4-Dichlorophenyl)-3-(5-methoxy-2-methyl-3-oxo-2,3-dihydro-1H-isoindol-1-yl)propionaldehyde | 0.33 g | ClC=1C=C(C=CC1Cl)C(CC=O)C1N(C(C2=CC(=CC=C12)OC)=O)C | C19H17Cl2NO3
reactant | 4-(2-methylsulfinyl-3-pyridyl)piperidine | 0.423 g | CS(=O)C1=NC=CC=C1C1CCNCC1 | C11H16N2OS
product | 3-[1-(3,4-Dichlorophenyl)-3-(4-(2-methylsulfinyl-3-pyridyl)piperidino)propyl]-6-methoxy-2-methyl-2,3-dihydroisoindol-1-one hydrochloride | 0.26 g | Cl.ClC=1C=C(C=CC1Cl)C(CCN1CCC(CC1)C=1C(=NC=CC1)S(=O)C)C1N(C(C2=CC(=CC=C12)OC)=O)C | InChI=1S/C30H33Cl2N3O3S.ClH/c1-34-28(24-8-7-21(38-2)18-25(24)30(34)36)22(20-6-9-26(31)27(32)17-20)12-16-35-14-10-19(11-15-35)23-5-4-13-33-29(23)39(3)37;/h4-9,13,17-19,22,28H,10-12,14-16H2,1-3H3;1H
